US07943774B2
tert-Butyl 4-(4-acetyl-1,3-thiazol-2-yl)piperidine-1-carboxylate (IX-1)
At room temperature, 1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one (15% solution in dichloromethane, 28 g) are added dropwise to a solution of tert-butyl 4-[4-(1-hydroxyethyl)-1,3-thiazol-2-yl]piperidine-1-carboxylate (VIII-1, 2.06 g) in dichloromethane (40 ml). The reaction mixture is stirred at room temperature overnight, 5 g of silica gel are then added and the solvent is removed under reduced pressure. The residue is purified chromatographically. This gives tert-butyl 4-(4-acetyl-1,3-thiazol-2-yl)piperidine-1-carboxylate (1.65 g).

reactant | 1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one | 28 g | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | tert-butyl 4-[4-(1-hydroxyethyl)-1,3-thiazol-2-yl]piperidine-1-carboxylate | 2.06 g | OC(C)C=1N=C(SC1)C1CCN(CC1)C(=O)OC(C)(C)C | C15H24N2O3S
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | tert-Butyl 4-(4-acetyl-1,3-thiazol-2-yl)piperidine-1-carboxylate | C(C)(=O)C=1N=C(SC1)C1CCN(CC1)C(=O)OC(C)(C)C | C15H22N2O3S
